US05703110
2-Methoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid
To a solution of methyl 2-methoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate (0.22 g) in methanol (10 ml) was added 1N-NaOH (1.5 ml). The mixture was heated for 6 hours under reflux. The reaction mixture was concentrated to dryness and to the residue was added water. The mixture was adjusted to pH 3-4 with 1N-HCl to give crystals. Recrystallization from methanol-chloroform gave colorless needles (0.17 g, 77%), m.p. 208°-209° C.

reactant | methyl 2-methoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 0.22 g | COC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OC | C24H20N6O3
reactant | NaOH | 1.5 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | 2-Methoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylic acid | 0.17 g, 77% | COC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)O | C23H18N6O3
